US08022085B2
Step 2: 5-Bromo-1-(2,6-difluorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one
Ethyl 1-(2,6-difluorophenyl)-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (9.40 g, 29 mmol) was treated with 80 mL CH3CN and 80 mL water and lithium hydroxide monohydrate (3.10 g, 74 mmol). The resulting suspension was then heated to 90° C. for 1 h. The solution was allowed to cool to 35° C. and treated with N-bromosuccimide (5.20 g, 29 mmol) in one portion. It was allowed to stir for 1 h at RT then treated with another equiv. of N-bromosuccimide (5.20 g, 29 mmol) in one portion. After stirring for an additional 1 h at RT, it was treated with a saturated solution of NaHCO3 and extracted with 2×150 mL EtOAc. The combined organic solution was washed with brine, dried over MgSO4, filtered and concentrated to afford the title compound (8.31 g) as an orange foam in ca. 90% purity. No further purification was carried out prior to use in the next step. MS (ESI, pos.ion) m/z: 326.0/327.9 (M+1). For a related reference, see: Chowdhury, S.; Roy, S. J. Org. Chem. 1997, 62, 199-200.

reactant | Ethyl 1-(2,6-difluorophenyl)-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 29 mmol, 9.40 g | FC1=C(C(=CC=C1)F)N1N=CC2=C1NC(C(=C2)C(=O)OCC)=O | C15H11F2N3O3
reactant | lithium hydroxide monohydrate | 74 mmol, 3.10 g | O.[OH-].[Li+]
reactant | N-bromosuccimide | 29 mmol, 5.20 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | N-bromosuccimide | 29 mmol, 5.20 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 80 mL | O | H2O
solvent | CH3CN | 80 mL | CC#N | C2H3N
product | 5-Bromo-1-(2,6-difluorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 8.31 g | BrC1=CC2=C(NC1=O)N(N=C2)C2=C(C=CC=C2F)F | C12H6BrF2N3O
